data/preprocessed/USPTO_ozonolysis.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C(C[CH:1]=[CH2:2])C(CC(=O)O)C1=CC=CC(F)=C1.ClCCl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",38,4,reaction_10,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C(C[CH:1]1[CH2:2][O:3][O:4][O:5]1)C(CC(=O)O)C1=CC=CC(F)=C1.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",38,3,reaction_10,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C(C[CH:3]=[O+:4][O-:5])C(CC(=O)O)C1=CC=CC(F)=C1.ClCCl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",38,2,reaction_10,USPTO_ozonolysis,train
"C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C(CC1OC[O:1][O:3]1)C(CC(=O)O)C1=CC=CC(F)=C1.ClCCl|(2, 1);((1, 3), 3)",38,1,reaction_10,USPTO_ozonolysis,train
"COC(=O)C(C[CH:1]([O-:2])[O:3][CH2:4][O:5][P+:6](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CC(=O)O)C1=CC=CC(F)=C1.ClCCl|(2, 1);((1, 3), 4);((4, 5), 6)",38,0,reaction_10,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C1CC[C:1](=[CH2:2])C1.ClCCl.[O-:3][O+:4]=[O:5].[O-]OO|(3, 2);((2, 1), 5);((5, 4), 4)",39,4,reaction_22,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C1CC[C:1]2(C1)[CH2:2][O:3][O:4][O:5]2.ClCCl.[O-]OO|(5, 1);((1, 2), 3);((3, 4), 4)",39,3,reaction_22,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C1CC[C:3](=[O+:4][O-:5])C1.ClCCl.[CH2:1]=[O:2].[O-]OO|(5, 1);((1, 2), 3);((3, 4), 4)",39,2,reaction_22,USPTO_ozonolysis,train
"C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC(=O)C1CCC2(C1)OC[O:3][O:1]2.ClCCl.[O-]OO|(2, 1);((1, 3), 3)",39,1,reaction_22,USPTO_ozonolysis,train
"COC(=O)C1CC[C:1]([O:2][CH2:3][O-:4])([O:5][P+:6](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1.ClCCl.[O-]OO|(4, 3);((3, 2), 1);((1, 5), 6)",39,0,reaction_22,USPTO_ozonolysis,train
"CO.CSC.ClCCl.O=C(O)C1=CC=NC([CH:2]=[CH2:1])=C1.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",11,4,reaction_21,USPTO_ozonolysis,train
"CO.CSC.ClCCl.O=C(O)C1=CC=NC([CH:1]2[CH2:2][O:3][O:4][O:5]2)=C1|(5, 1);((1, 2), 3);((3, 4), 4)",11,3,reaction_21,USPTO_ozonolysis,train
"CO.CSC.ClCCl.O=C(O)C1=CC=NC([CH:3]=[O+:4][O-:5])=C1.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",11,2,reaction_21,USPTO_ozonolysis,train
"CO.C[S:2]C.ClCCl.O=C(O)C1=CC=NC(C2OC[O:1][O:3]2)=C1|(2, 3);((3, 1), 1)",11,1,reaction_21,USPTO_ozonolysis,train
"CO.C[S+:1](C)[O:2][CH:3](C1=CC(C(=O)O)=CC=N1)[O:4][CH2:5][O-:6].ClCCl|(6, 5);((5, 4), 3);((3, 2), 1)",11,0,reaction_21,USPTO_ozonolysis,train
"COC1=CC=CC=C1[C:1](C(=O)O)=[CH2:2].CSC.ClCCl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",14,4,reaction_9,USPTO_ozonolysis,train
"COC1=CC=CC=C1[C:1]1(C(=O)O)[CH2:2][O:3][O:4][O:5]1.CSC.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",14,3,reaction_9,USPTO_ozonolysis,train
"COC1=CC=CC=C1[C:3](C(=O)O)=[O+:4][O-:5].CSC.ClCCl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",14,2,reaction_9,USPTO_ozonolysis,train
"COC1=CC=CC=C1C1(C(=O)O)OC[O:3][O:1]1.C[S:2]C.ClCCl|(2, 3);((3, 1), 1)",14,1,reaction_9,USPTO_ozonolysis,train
"COC1=CC=CC=C1[C:1](C(=O)O)([O-:2])[O:3][CH2:4][O:5][S+:6](C)C.ClCCl|(2, 1);((1, 3), 4);((4, 5), 6)",14,0,reaction_9,USPTO_ozonolysis,train
"COC(=O)[CH:1]=[CH:2]C1=C(Cl)C=C(Br)C=C1Cl.CSC.ClCCl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",23,4,reaction_21,USPTO_ozonolysis,train
"COC(=O)[CH:1]1[O:2][O:3][O:4][CH:5]1C1=C(Cl)C=C(Br)C=C1Cl.CSC.ClCCl|(4, 5);((5, 1), 2);((2, 3), 3)",23,3,reaction_21,USPTO_ozonolysis,train
"COC(=O)[CH:1]=[O:2].CSC.ClC1=CC(Br)=CC(Cl)=C1[CH:5]=[O+:4][O-:3].ClCCl|(3, 1);((1, 2), 5);((5, 4), 4)",23,2,reaction_21,USPTO_ozonolysis,train
"COC(=O)C1OC(C2=C(Cl)C=C(Br)C=C2Cl)[O:3][O:2]1.C[S:1]C.ClCCl|(1, 3);((3, 2), 2)",23,1,reaction_21,USPTO_ozonolysis,train
"COC(=O)[CH:1]([O-:2])[O:3][CH:4](C1=C(Cl)C=C(Br)C=C1Cl)[O:5][S+:6](C)C.ClCCl|(2, 1);((1, 3), 4);((4, 5), 6)",23,0,reaction_21,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(CCCC(CC[CH:1]=[CH2:2])C(=O)N2CCOC2=O)OCCO1.ClCCl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",7,4,reaction_10,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(CCCC(CC[CH:2]2[O:1][O:5][O:4][CH2:3]2)C(=O)N2CCOC2=O)OCCO1.ClCCl|(1, 2);((2, 3), 4);((4, 5), 5)",7,3,reaction_10,USPTO_ozonolysis,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(CCCC(CC[CH:4]=[O+:5][O-:1])C(=O)N2CCOC2=O)OCCO1.ClCCl.[CH2:2]=[O:3]|(1, 2);((2, 3), 4);((4, 5), 5)",7,2,reaction_10,USPTO_ozonolysis,train
"C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1(CCCC(CCC2OC[O:3][O:1]2)C(=O)N2CCOC2=O)OCCO1.ClCCl|(2, 3);((3, 1), 1)",7,1,reaction_10,USPTO_ozonolysis,train
"CC1(CCCC(CC[CH:1]([O-:2])[O:3][CH2:4][O:5][P+:6](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)N2CCOC2=O)OCCO1.ClCCl|(2, 1);((1, 3), 4);((4, 5), 6)",7,0,reaction_10,USPTO_ozonolysis,train
